### PR TITLE
[Merged by Bors] - feat(List): `count a (l₁.diff l₂) = count a l₁ - count a l₂`

### PR DESCRIPTION
**Pull request by YaelDillies**
This will help not importing algebra when defining multisets

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

File: Mathlib/Data/List/Count.lean [hunk 1]
```diff
@@ -13,16 +13,34 @@ This file proves basic properties of `List.countP` and `List.count`, which count
...
+lemma countP_diff [DecidableEq α] {l₁ l₂ : List α} (hl : l₂ <+~ l₁) (p : α → Bool) :
+    countP p (l₁.diff l₂) = countP p l₁ - countP p l₂ := by
+  refine (Nat.sub_eq_of_eq_add ?_).symm
+  rw [← countP_append]
+  exact ((subperm_append_diff_self_of_count_le <| subperm_ext_iff.1 hl).symm.trans
+    perm_append_comm).countP_eq _
+
 /-! ### count -/
 
 section Count
```
Comment (Vierkantor) [inline Mathlib/Data/List/Count.lean:46]: I think we should either put your new results in this section, or preferably delete the section outright. What do you think?

**Review by Vierkantor — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Data/List/Count.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Data/List/Count.lean:46]: You're right. It's a silly section

**Comment by YaelDillies** [comment]
bors merge
